US04861785
A mixture of 5.04 parts of 1-(3-bromopropoxy)-4-methylbenzene, 7.54 parts of N-ethyl-N-(4-piperidinyl)-2-benzothiazolamine (Z)-2-butenedioate (1:1), 5.3 parts of sodium carbonate, 0.1 parts of potassium iodide and 180 parts of N,N-dimethylformamide was stirred and heated overnight at 60° C. The reaction mixture was poured onto water and the product was extracted with methylbenzene. The extract was washed three times with water, dried, filtered and evaporated. The residue was crystallized from 2-propanol, yielding 6 parts (75%) of N-ethyl-N-[1-[3-(4-methylphenoxy)propyl]-4-piperidinyl]-2-benzothiazolamine; mp. 101.0° C. (123).

reactant | 1-(3-bromopropoxy)-4-methylbenzene | BrCCCOC1=CC=C(C=C1)C | C10H13BrO
reactant | N-ethyl-N-(4-piperidinyl)-2-benzothiazolamine (Z)-2-butenedioate | C(\C=C/C(=O)O)(=O)O.C(C)N(C=1SC2=C(N1)C=CC=C2)C2CCNCC2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium iodide | [I-].[K+]
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | N-ethyl-N-[1-[3-(4-methylphenoxy)propyl]-4-piperidinyl]-2-benzothiazolamine | 75% | C(C)N(C=1SC2=C(N1)C=CC=C2)C2CCN(CC2)CCCOC2=CC=C(C=C2)C | C24H31N3OS
